US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-fluoro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-6-chloro-4′-[5-fluoro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (100 mg, 0.18 mmol) and CDI (58 mg, 0.36 mmol) in DMF (5 mL) was heated at 60° C. for 0.5 h. Then to this solution was added a mixture of methanesulfonamide (475 mg, 5 mmol) and NaH (200 mg, 60%, 5 mmol) in DMF (5 mL), which had been stirred for 1 h at room temperature. After the resulting mixture was stirred at room temperature for 0.5 h, it was poured into water (5 mL) and the aqueous solution was acidified to “pH” 2-3 by concentrated aqueous hydrochloride. After the aqueous phase was extracted with EtOAc twice, the combined organic phases were dried over anhydrous Na2SO4, concentrated and the residue was purified by flash column to give the title compound as a white solid (80 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-fluoro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.18 mmol, 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)F)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25ClF2N2O5
reactant | CDI | 0.36 mmol, 58 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 5 mmol, 475 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-fluoro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 80 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)F)OC(C(=O)NS(=O)(=O)C)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C30H28ClF2N3O6S
